US07767665B2
2-(6-Methylamino-2-pyridyl)-4H-1,3-benzothiazine-4-one
A mixture of tert-butyl methyl[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]carbamate (0.60 g, 1.6 mmol) and trifluoroacetic acid (8 ml) was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure to give crystals, which were recrystallized from methanol-diethyl ether to give the titled compound (0.33 g, 74%).

reactant | tert-butyl methyl[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]carbamate | 1.6 mmol, 0.60 g | CN(C(OC(C)(C)C)=O)C1=NC(=CC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C19H19N3O3S
reactant | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(6-Methylamino-2-pyridyl)-4H-1,3-benzothiazine-4-one | 0.33 g, 74% | CNC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C14H11N3OS
